Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[CH2:1][CH2:2][CH:3]1[CH2:15][CH2:14][N:6]([C:7]([O:8][C:9]([CH3:10])([CH3:11])[CH3:12])=[O:13])[CH2:5][CH2:4]1.[O:16]=[C:17]([O:18][CH2:19][c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[c:26]1[cH:27][cH:28][c:29]([OH:30])[cH:31][cH:32]1>>[CH2:1]([CH2:2][CH:3]1[CH2:4][CH2:5][N:6]([C:7]([O:8][C:9]([CH3:10])([CH3:11])[CH3:12])=[O:13])[CH2:14][CH2:15]1)[O:30][c:29]1[cH:28][cH:27][c:26]([C:17](=[O:16])[O:18][CH2:19][c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[cH:32][cH:31]1,[O:16]=[C:17]([O:18][CH2:19][c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[c:26]1[cH:27][cH:28][c:29]([OH:30])[cH:31][cH:32]1.[OH:101][CH2:1][CH2:2][CH:3]1[CH2:4][CH2:5][N:6]([C:7]([O:8][C:9]([CH3:10])([CH3:11])[CH3:12])=[O:13])[CH2:14][CH2:15]1.c1ccccc1[P:301](c2ccccc2)c3ccccc3.[O:302]=[C:303]([N:304]=[N:305]C(=O)OCC)OCC>>[CH2:1]([CH2:2][CH:3]1[CH2:4][CH2:5][N:6]([C:7]([O:8][C:9]([CH3:10])([CH3:11])[CH3:12])=[O:13])[CH2:14][CH2:15]1)[O:30][c:29]1[cH:28][cH:27][c:26]([C:17](=[O:16])[O:18][CH2:19][c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[cH:32][cH:31]1,Mitsunobu,"[(301, 305), ([305, 304], 304), (304, [304, 303]), ([303, 302], 302), (302, [302, 303]), ([303, 304], 30.1), ([30.1, 30], 30), (101, 301), ([301, 305], 305), (305, 101.1), ([101.1, 101], 101), (30, 1), ([1, 101], [101, 301])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
C[O:1][c:2]1[cH:3][cH:4][c:5]2[c:6]([CH2:7][CH2:8][CH2:9][CH2:10][N:11]3[CH2:12][CH:13]=[C:14]([c:15]4[cH:16][cH:17][cH:18][s:19]4)[CH2:20][CH2:21]3)[cH:22][nH:23][c:24]2[cH:25]1>>[OH:1][c:2]1[cH:3][cH:4][c:5]2[c:6]([CH2:7][CH2:8][CH2:9][CH2:10][N:11]3[CH2:12][CH:13]=[C:14]([c:15]4[cH:16][cH:17][cH:18][s:19]4)[CH2:20][CH2:21]3)[cH:22][nH:23][c:24]2[cH:25]1,[CH3:101][O:1][c:2]1[cH:3][cH:4][c:5]2[c:6]([CH2:7][CH2:8][CH2:9][CH2:10][N:11]3[CH2:12][CH:13]=[C:14]([c:15]4[cH:16][cH:17][cH:18][s:19]4)[CH2:20][CH2:21]3)[cH:22][nH:23][c:24]2[cH:25]1.Br[B:301](Br)[Br:302].[OH2:303]>>[OH:1][c:2]1[cH:3][cH:4][c:5]2[c:6]([CH2:7][CH2:8][CH2:9][CH2:10][N:11]3[CH2:12][CH:13]=[C:14]([c:15]4[cH:16][cH:17][cH:18][s:19]4)[CH2:20][CH2:21]3)[cH:22][nH:23][c:24]2[cH:25]1,O_demethylation,"[(1, 301), ([301, 302], 302), (302, 101), ([101, 1], 1), (303, 301), ([301, 1], 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][CH2:2][O:3][C:4](=[O:5])[C@H:6]1[CH2:7][CH2:8][C:9]([c:10]2[cH:11][c:12]([F:13])[c:14]([F:15])[c:16]([F:17])[cH:18]2)=[N:19]1>>[CH3:1][CH2:2][O:3][C:4](=[O:5])[C@H:6]1[CH2:7][CH2:8][C@@H:9]([c:10]2[cH:11][c:12]([F:13])[c:14]([F:15])[c:16]([F:17])[cH:18]2)[NH:19]1,[CH3:1][CH2:2][O:3][C:4](=[O:5])[C@H:6]1[CH2:7][CH2:8][C:9]([c:10]2[cH:11][c:12]([F:13])[c:14]([F:15])[c:16]([F:17])[cH:18]2)=[N:19]1.[BH4-:301].[H+:302]>>[CH3:1][CH2:2][O:3][C:4](=[O:5])[C@H:6]1[CH2:7][CH2:8][C@@H:9]([c:10]2[cH:11][c:12]([F:13])[c:14]([F:15])[c:16]([F:17])[cH:18]2)[NH:19]1,imine_reduction,"[(19, 302), ([301, 301.1], 9), ([9, 19], 19)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][CH2:2][CH2:3][c:4]1[cH:5][c:6](-[c:7]2[cH:8][cH:9][c:10]([Cl:11])[cH:12][cH:13]2)[n:14](-[c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[n:21]1.[CH3:22][c:23]1[cH:24][cH:25][cH:26][c:27]([N:28]2[CH2:29][CH2:30][NH:31][CH2:32][CH2:33]2)[c:34]1[CH3:35]>>[CH2:1]([CH2:2][CH2:3][c:4]1[cH:5][c:6](-[c:7]2[cH:8][cH:9][c:10]([Cl:11])[cH:12][cH:13]2)[n:14](-[c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[n:21]1)[N:31]1[CH2:30][CH2:29][N:28]([c:27]2[cH:26][cH:25][cH:24][c:23]([CH3:22])[c:34]2[CH3:35])[CH2:33][CH2:32]1,[O:101]=[CH:1][CH2:2][CH2:3][c:4]1[cH:5][c:6](-[c:7]2[cH:8][cH:9][c:10]([Cl:11])[cH:12][cH:13]2)[n:14](-[c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[n:21]1.[CH3:22][c:23]1[cH:24][cH:25][cH:26][c:27]([N:28]2[CH2:29][CH2:30][NH:31][CH2:32][CH2:33]2)[c:34]1[CH3:35].[H+:301].[BH3-:302]C#N.[Na+]>>[CH2:1]([CH2:2][CH2:3][c:4]1[cH:5][c:6](-[c:7]2[cH:8][cH:9][c:10]([Cl:11])[cH:12][cH:13]2)[n:14](-[c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[n:21]1)[N:31]1[CH2:30][CH2:29][N:28]([c:27]2[cH:26][cH:25][cH:24][c:23]([CH3:22])[c:34]2[CH3:35])[CH2:33][CH2:32]1,reductive_amination,"[(31, 1), ([1, 101], 301), (101, 31.1), ([31.1, 31], 31), (31, [31, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 31], 31)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
